US08975282B2
Step 2) N-(4-((2-(3-(2-hydroxyethyl)-3-methylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate (50 mg, 0.093 mmol), NMP (3 mL) and 2-(methylamino)ethanol (8.4 mg, 0.112 mmol) was heated at 40° C. for 2 hours. The solvent was evaporated under reduced pressure at 40° C., and then diluted with EtOAc (10 mL). The resulted mixture was washed with water (7 mL×3), followed by washing with brine (10 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was washed with EtOAc (2 mL) to give the title compound as a white solid (25 mg, 52%).

reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate | 0.093 mmol, 50 mg | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)=O)C1=CC=CC=C1 | C30H25N5O5
reactant | 2-(methylamino)ethanol | 0.112 mmol, 8.4 mg | CNCCO | C3H9NO
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | N-(4-((2-(3-(2-hydroxyethyl)-3-methylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 25 mg, 52% | OCCN(C(NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)=O)C | C27H28N6O5
